US07598418B2
(3) Preparation of 5-amino-N-benzylnaphthalene-1-carboxamide
5% Palladium on carbon (14 mg) was added to a suspension of N-benzyl-5-nitronaphthalene-1-carboxamide (128.0 mg, 0.418 mmol) in methanol (2.5 ml). The mixture was stirred at room temperature for 2 hours, under hydrogen atmosphere. After the palladium on carbon was filtered off, the filtrate was concentrated. The residue was solidified by a mixture of isopropyl ether: ethyl acetate (1:1), and the resulting solid was washed with isopropyl ether and dried to give the title compound as a light yellow solid (102 mg, 88.7%).

reactant | N-benzyl-5-nitronaphthalene-1-carboxamide | 0.418 mmol, 128.0 mg | C(C1=CC=CC=C1)NC(=O)C1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C18H14N2O3
catalyst | Palladium on carbon | 14 mg | [Pd] | Pd
solvent | methanol | 2.5 ml | CO | CH4O
product | 5-amino-N-benzylnaphthalene-1-carboxamide | 102 mg, 88.7% | NC1=C2C=CC=C(C2=CC=C1)C(=O)NCC1=CC=CC=C1 | C18H16N2O
